US05864039
2-(3-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)propyl)-2,3-dihydro-1 H-isoindole-1,3-dione (1 g) as starting compound was reacted and treated in the same manner as in Example 67 using 4-amino-5-chloro-2-methoxybenzoic acid (0.50 g) to give 4-amino-5-chloro-N-(1-(3-(2,3-dihydro-1,3-dioxo-1 H-isoindol-2-yl)propyl)-pyrrolidin-3-ylmethyl)-2-methoxybenzamide.

reactant | 2-(3-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)propyl)-2,3-dihydro-1 H-isoindole-1,3-dione | 1 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C21H29N3O4
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.50 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 4-amino-5-chloro-N-(1-(3-(2,3-dihydro-1,3-dioxo-1 H-isoindol-2-yl)propyl)-pyrrolidin-3-ylmethyl)-2-methoxybenzamide | NC1=CC(=C(C(=O)NCC2CN(CC2)CCCN2C(C3=CC=CC=C3C2=O)=O)C=C1Cl)OC | C24H27ClN4O4
